US05576338
2-(tert-Butyldiphenylsiloxy)methyl-6-phenylpyridine
A mixture of 2-bromo-6-(tert-butyldiphenylsiloxy)methylpyridine (1 g; WO 94/00444), benzeneboric acid (400 mg) and tetrakis (triphenylphosphine) palladium (200 mg) in 2M Na2CO3 (25 mL) and THF (100 mL) was refluxed for 16 h. The THF was evaporated and the residue was extracted with EtOAc. The organics were dried (MgSO4), concentrated and chromatographed (silica gel; hexane/ethyl acetate (20:1)) to provide the title compound as a solid.

reactant | 2-bromo-6-(tert-butyldiphenylsiloxy)methylpyridine | 1 g | BrC1=NC(=CC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C22H24BrNOSi
solvent | Na2CO3 | 2M, 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | tetrakis (triphenylphosphine) palladium | 200 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(tert-Butyldiphenylsiloxy)methyl-6-phenylpyridine | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=NC(=CC=C1)C1=CC=CC=C1 | C28H29NOSi
